US07351857B2
To dimethylthiocarbamic acid S-(2-formylaminoindan-5-yl)ester (0.772 g; 2.9 mmol) in THF (9 mL) under N2 is added a solution of 1.0 M lithium aluminum hydride (9 mL) at 0° C. The reaction is warmed to RT then stirred at reflux for 24 h. The reaction is cooled to 0° C., quenched with H2O, and the solvent removed under reduced pressure. The residue is dissolved in MeOH (4 mL), to which is added Cs2CO3 (0.304 g; 0.93 mmol), tert-butyl 2-bromoisobutyrate (0.311 mL; 1.39 mmol), and NaBH4 (2.0 g; 52.8 mmol). The reaction mixture is stirred for 18 h, the removed under reduced pressure and the residue partitioned between EtOAc and H2O. The layers are separated, the aqueous phase extracted with EtOAc, the organic extracts combined, washed with brine, dried over Na2SO4, filtered and evaporated under reduced pressure. The crude residue is purified by flash chromatography (SiO2) eluting with a CH2Cl2-MeOH gradient to afford 0.186 g (20%) of 2-methyl-2-(2-methylaminoindan-5-ylsulfanyl)propionic acid tert-butyl ester as an oil.

reactant | dimethylthiocarbamic acid S-(2-formylaminoindan-5-yl)ester | 2.9 mmol, 0.772 g | C(=O)NC1CC2=CC=C(C=C2C1)SC(N(C)C)=O | C13H16N2O2S
reactant | lithium aluminum hydride | 1.0 M, 9 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Cs2CO3 | 0.93 mmol, 0.304 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | tert-butyl 2-bromoisobutyrate | 1.39 mmol, 0.311 mL | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
reactant | NaBH4 | 52.8 mmol, 2.0 g | [BH4-].[Na+]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 2-methyl-2-(2-methylaminoindan-5-ylsulfanyl)propionic acid tert-butyl ester | 0.186 g, 20% | C(C)(C)(C)OC(C(C)(SC=1C=C2CC(CC2=CC1)NC)C)=O | C18H27NO2S
